US04310655
Dimethyl(p-bromophenyl)acetic Acid
Dry dimethylphenylacetic acid, 152 g, 0.926 mole, was added to a flask equipped with a reflux condenser, magnetic stirrer and oil bath. A solution of bromine, 50 mL, 0.97 mole, in dry carbon tetrachloride (172 mL) was then added along with iron metal "filings," 0.23 g. The mixture was gently refluxed for 16 hours and cooled to ca. 35° C. whereupon material began to crystallize out of solution. Enough carbon tetrachloride (ca. 300 mL) was then added to redissolve the crystals and the solution was washed with ca. 500 mL of dilute aqueous H2SO4, followed by 500 mL of water. The washed CCl4 solution was extracted with 10% aqueous NaOH. The combined basic extracts were washed with petroleum ether or pentane to remove CCl4 and then neutralized at 0° C. with aqueous H2SO4 (50%). The precipitated crude acid was collected on a filtering funnel, washed with cold water and vacuum dried at 40° C. The crude yield was 220 g (98%), mp=106°-116° C. Four recrystallizations from methanol-water (50/50 vol) gave a final mp of 122°-124° C.

reactant | dimethylphenylacetic acid | CC(C(=O)O)(C1=CC=CC=C1)C | C10H12O2
reactant | bromine | BrBr | Br2
solvent | carbon tetrachloride | 172 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | iron | [Fe] | Fe
product | Dimethyl(p-bromophenyl)acetic Acid | CC(C(=O)O)(C1=CC=C(C=C1)Br)C | C10H11BrO2
